US05582839
A mixture of magnesium hydroxide (9.50 g, 8.62 mmol) and taurine (2.16 g, 17.2 mmol) in 20 ml water was refluxed for 7 hours, then evaporated under vacuum to remove most of the water. The paste was diluted with 10 ml ethanol, and after two hours the solid was collected by filtration and dried. Magnesium taurate was obtained as a white powder (about 99% yield). Magnesium taurate could also be obtained as a white powder by lyophilization or by further drying of the paste remaining after evaporation of the reaction mixture.

reactant | magnesium hydroxide | 8.62 mmol, 9.50 g | [OH-].[Mg+2].[OH-]
reactant | taurine | 17.2 mmol, 2.16 g | NCCS(=O)(=O)O | C2H7NO3S
solvent | water | 20 ml | O | H2O
product | Magnesium taurate | C(CS(=O)(=O)[O-])N.C(CS(=O)(=O)[O-])N.[Mg+2] | InChI=1S/2C2H7NO3S.Mg/c2*3-1-2-7(4,5)6;/h2*1-3H2,(H,4,5,6);/q;;+2/p-2
